US07053245B2
a) 1-Fluoro-2-(4-nitrophenoxy-methyl)-benzene
Prepared in analogy to example 8 from 4-nitrophenol and 2-fluoro-benzylbromide. Colorless solid. Yield=74%. MS: m/e=247.1 (M+).

reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2-fluoro-benzylbromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | 1-Fluoro-2-(4-nitrophenoxy-methyl)-benzene | Yield=74% | FC1=C(C=CC=C1)COC1=CC=C(C=C1)[N+](=O)[O-] | C13H10FNO3
